US08957062B2
Step D: 2-((1S,2R)-2-(1-(5-isopropyl-1,2,4-oxadiazol-3-yl)piperidin-4-yl)cyclopropyl)ethanol
N-hydroxy-4-((1R,2S)-2-(2-hydroxyethyl)cyclopropyl)piperidine-1-carboximidamide (4.8 g, 21.10 mmol) was dissolved in Pyridine (60 ml) and isobutyryl chloride (18.44 ml, 176 mmol) was added. The mixture was stirred at 80° C. for 3 h and the solvent was evaporated to dryness. The residue was dissolved in MeOH (100 ml) and potassium carbonate (24.32 g, 176 mmol) was added. The mixture was stirred at 50° C. for 2 h. Another potassium carbonate (24.32 g, 176 mmol) was added and the mixture was stirred at 50° C. for another 2 h. The mixture was cooled down and diluted with EtOAc (100 mL), washed with water, sat. NH4Cl, dried over MgSO4, evaporated. The crude material was purified by silica gel column eluting with 20-70% EtOAc in hexane to afford the desired product. LC/MS (m/z): 280 (M+H)+.

reactant | N-hydroxy-4-((1R,2S)-2-(2-hydroxyethyl)cyclopropyl)piperidine-1-carboximidamide | 21.10 mmol, 4.8 g | ONC(=N)N1CCC(CC1)[C@@H]1[C@@H](C1)CCO | C11H21N3O2
reactant | isobutyryl chloride | 176 mmol, 18.44 ml | C(C(C)C)(=O)Cl | C4H7ClO
reactant | potassium carbonate | 176 mmol, 24.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 176 mmol, 24.32 g | C([O-])([O-])=O.[K+].[K+]
solvent | Pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 2-((1S,2R)-2-(1-(5-isopropyl-1,2,4-oxadiazol-3-yl)piperidin-4-yl)cyclopropyl)ethanol | C(C)(C)C1=NC(=NO1)N1CCC(CC1)[C@@H]1[C@@H](C1)CCO | C15H25N3O2
